US06235731B1
3) Synthesis of N-[2-[1-(tert-butoxycarbonyl)piperidin-4-ylidene]ethyl]phthalimide
A solution of 5.775 g (19.900 mM) of tert-butyl 4-(2-bromoethylidene)piperidine-1-carboxylate and 4.05 g (21.9 mM) of potassium phthalimide in 100 ml of N,N-dimethylformamide was stirred at 100° C. for 1 hour. This reaction mixture was poured in water and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over anhydrous magnesium sulfate (MgSO4) and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to provide the title compound.

reactant | tert-butyl 4-(2-bromoethylidene)piperidine-1-carboxylate | 19.900 mM, 5.775 g | BrCC=C1CCN(CC1)C(=O)OC(C)(C)C | C12H20BrNO2
reactant | potassium phthalimide | 21.9 mM, 4.05 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[2-[1-(tert-butoxycarbonyl)piperidin-4-ylidene]ethyl]phthalimide | C(C)(C)(C)OC(=O)N1CCC(CC1)=CCN1C(C=2C(C1=O)=CC=CC2)=O | C20H24N2O4
